US07476399B2
2,3-dimethylcyclohexanamine (20 μmol) and benzo[d][1,3]dioxole-5-carboxylic acid (1.1 eq) were each dissolved in acetonitrile/dichloromethane (200 μL, 2:1). PS-Carbodiimide resin (2 eq) was loaded into a 1.2 mL 96 well Greiner plate, followed by the addition of amine and acid solutions. Hydroxybenzotriazole (1.1 eq) was dissolved in DMF (100 mL) and was added into the reaction well. The reaction was shaken overnight at room temperature. Once the reaction was completed, PS-Trisamine resin (1.5 eq) was added into the reaction mixture and the solution was allowed to shake overnight at room temperature. Acetonitrile (200 mL) was added into the reaction well, and the top clear solution was transferred into a new plate. The solution was evaporated to give N-(2,3-dimethylcyclohexyl)benzo[d][1,3]dioxole-5-carboxamide. MS (M+H, 276.20).

reactant | 2,3-dimethylcyclohexanamine | 20 μmol | CC1C(CCCC1C)N | C8H17N
reactant | benzo[d][1,3]dioxole-5-carboxylic acid | 1.1 eq | O1COC2=C1C=CC(=C2)C(=O)O | C8H6O4
reactant | Carbodiimide | 2 eq | N=C=N | CH2N2
reactant | Hydroxybenzotriazole | 1.1 eq | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | Trisamine | 1.5 eq | C(C(CO)(CO)N)O | C4H11NO3
solvent | acetonitrile dichloromethane | 200 μL | C(C)#N.ClCCl
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | Acetonitrile | 200 mL | C(C)#N | C2H3N
product | N-(2,3-dimethylcyclohexyl)benzo[d][1,3]dioxole-5-carboxamide | CC1C(CCCC1C)NC(=O)C1=CC2=C(OCO2)C=C1 | C16H21NO3
